US07576108B2
b: (2-Iodo-ethyl)-cyclohexane
Dissolve (2-bromo-ethyl)-cyclohexane (10.0 g, 52.3 mmol) in 500 mL acetone, add sodium iodide (15.6 g, 104.6 mmol) and reflux over night. Filter the reaction mixture, add water to the filtrate and extract with hexane. Dry the organic phases over sodium sulfate, filter and concentrate to an oil. Further purify this material by distillation to afford the title compound (10.6 g). 1H-NMR (CDCl3) δ=0.83-1.00 (m, 2H), 1.07-1.48 (m, 4H), 1.61-1.80 (m, 7H), 3.16-3.27 (m, 2H).

reactant | (2-bromo-ethyl)-cyclohexane | 52.3 mmol, 10.0 g | BrCCC1CCCCC1 | C8H15Br
reactant | sodium iodide | 104.6 mmol, 15.6 g | [I-].[Na+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | (2-Iodo-ethyl)-cyclohexane | 10.6 g | ICCC1CCCCC1 | C8H15I
